US04440941
N,N1 -Dicyclohexylcarbodiimide (15.9 g, 77 mmol) in methylene chloride was added slowly to a mixture of 2-acetylthiobenzoic acid (15.2 g, 77 mmol) and N-cyclopentylglycine t-butyl ester (15.4 g) in methylene chloride maintained at 0°-5°. The mixture was brought to room temperature overnight, filtered, and the filtrate washed successively with dilute hydrochloric acid, saturated sodium bicarbonate and saturated sodium chloride solutions. After drying, the organic portion was concentrated, the residue dissolved in ether and the resulting solution filtered. Concentration of the filtrate gave crude N-(2-acetylthiobenzoyl)-N-cyclopentylglycine t-butyl ester as an oil.

reactant | 2-acetylthiobenzoic acid | 77 mmol, 15.2 g | C(C)(=O)C1=C(C(=S)O)C=CC=C1 | C9H8O2S
reactant | N-cyclopentylglycine t-butyl ester | 15.4 g | C(C)(C)(C)OC(CNC1CCCC1)=O | C11H21NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(2-acetylthiobenzoyl)-N-cyclopentylglycine t-butyl ester | C(C)(C)(C)OC(CN(C1CCCC1)C(C1=C(C=CC=C1)C(C)=O)=S)=O | C20H27NO3S
